US06103708
(2-Benzyl-4,5-dimethyl-furan-3-yl)-(3,5-diethyl-4-hydroxy-phenyl)-methanone
The title compound was prepared according to the procedure in Example 5, step 3 using (2-benzyl-4,5-dimethyl-furan-3-yl)-(3,5-diethyl-4-methoxy-phenyl)-methanone (19.3 g, 51.2 mmol) and 1M boron tribromide/CH2Cl2 (36.8 mL) in CH2Cl2. Purification on Biotage KP-Sil eluting with a 2 & 5% EtOAc/hexane step gradient gave 7.07 g (37%) of the title compound. 1H NMR (DMSO-d6) δ 1.08 (t, 6 H), 1.79 (s, 3 H), 2.17 (s, 3 H), 2.57 (q, 4 H), 3.81 (s, 2 H), 7.06 (dd, 2 H), 7.16-7.18 (m, 1 H), 7.22-7.26 (m, 2 H), 7.37 (s, 2 H), 9.10 (s, 1 H). mass spectrum (EI), m/z 362 (M+).

reactant | (2-benzyl-4,5-dimethyl-furan-3-yl)-(3,5-diethyl-4-methoxy-phenyl)-methanone | 51.2 mmol, 19.3 g | C(C1=CC=CC=C1)C=1OC(=C(C1C(=O)C1=CC(=C(C(=C1)CC)OC)CC)C)C | C25H28O3
reactant | boron tribromide CH2Cl2 | 1M, 36.8 mL | B(Br)(Br)Br.C(Cl)Cl
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (2-Benzyl-4,5-dimethyl-furan-3-yl)-(3,5-diethyl-4-hydroxy-phenyl)-methanone | 7.07 g, 37% | C(C1=CC=CC=C1)C=1OC(=C(C1C(=O)C1=CC(=C(C(=C1)CC)O)CC)C)C | C24H26O3
